US08017602B2
Step i) tert-Butyl 3-(3-(1-methyl-1H-1,2,3-triazol-4-yl)phenethoxy)propanoate
Methyl iodide (0.20 mL) was added in one portion to a mixture of tert-butyl 3-(3-ethynylphenethoxy)propanoate [Example 4, Step ii)] (682 mg), sodium azide (194 mg), tert-butanol (0.750 mL), water (3 mL) and copper (I) iodide (47 mg) and sealed into a microwave tube. The reaction was heated to 70° C., over a period of 2 h in the microwave reactor. The reaction mixture was diluted with ethyl acetate and 35% ammonia was added. The mixture was stirred for 30 min and separated. The organic layer was dried over magnesium sulfate, filtered and evaporated to afford crude product. The crude product was purified by flash silica chromatography, elution gradient 20-100% ethyl acetate in isohexane then elution gradient 0-10% methanol in ethyl acetate to afford the subtitled compound (500 mg). 1H NMR (300 MHz, CDCl3) δ 7.77 (s, 1H), 7.70 (s, 1H), 7.65 (d, J=7.9 Hz, 1H), 7.33 (t, J=7.7 Hz, 1H), 7.19 (d, J=7.7 Hz, 1H), 4.15 (s, 3H), 3.73-3.66 (m, 4H), 2.92 (t, J=7.0 Hz, 2H), 2.49 (t, J=6.4 Hz, 2H), 1.43 (s, 9H).

reactant | Methyl iodide | 0.20 mL | CI | CH3I
reactant | tert-butyl 3-(3-ethynylphenethoxy)propanoate | C(#C)C=1C=C(CCOCCC(=O)OC(C)(C)C)C=CC1 | C17H22O3
reactant | sodium azide | 194 mg | [N-]=[N+]=[N-].[Na+]
reactant | tert-butanol | 0.750 mL | C(C)(C)(C)O | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ammonia | N | H3N
catalyst | copper (I) iodide | 47 mg | [Cu]I
solvent | water | 3 mL | O | H2O
product | tert-Butyl 3-(3-(1-methyl-1H-1,2,3-triazol-4-yl)phenethoxy)propanoate | 500 mg | CN1N=NC(=C1)C=1C=C(CCOCCC(=O)OC(C)(C)C)C=CC1 | C18H25N3O3
